US07074798B2
4-[7-(2-Formylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (13 mg) and hydroxylamine hydrochloride (10 mg) were dissolved in ethanol (1 ml) and water (0.2 ml), and potassium acetate (ca. 10 mg) was added thereto. The reaction solution was stirred for 0.5 hour at room temperature, diluted with ethyl acetate, and washed with sodium bicarbonate aqueous solution. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to give 4-[7-[2-(hydroxyiminomethyl)phenyl]-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester. This was dissolved in dichloromethane (0.5 ml) and triethylamine (ca. 0.05 ml) and methanesulfonyl chloride (0.05 ml) were added thereto. The reaction mixture was stirred at room temperature for 0.5 hour, and the solvent was removed. The residue was dissolved in trifluoroacetic acid, and the solution was concentrated. The residue was purified by reversed phase high performance liquid chromatography to give 4.14 mg of the title compound.

reactant | 4-[7-(2-Formylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 13 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=O)=O)C)=O)C | C23H28N6O5
reactant | hydroxylamine hydrochloride | 10 mg | Cl.NO
reactant | potassium acetate | ca. 10 mg | C(C)(=O)[O-].[K+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 0.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-[2-(hydroxyiminomethyl)phenyl]-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=NO)=O)C)=O)C | C23H29N7O5
